US07521448B2
3-Nitro-4-({4-[2-(pyridin-2-yloxy)ethoxy]phenyl}amino)benzoic acid (6.00 g, 15.20 mmol), iron powder (8.49 g, 152.00 mmol), and formic acid (68 mL) were dissolved in dry trimethyl orthoformate (175 mL). The reaction was allowed to stir at rt. After 18 h, the reaction mixture was diluted with CH2Cl2 and filtered through Celite to give a bright orange solid. The crude mixture was recrystallized from methanol to give 1-{4-[2-(pyridin-2-yloxy)ethoxy]phenyl}-1H-benzimidazole-5-carboxylic acid as a yellow-tan powder. 1H NMR (d6-DMSO, 400 MHz): δ 8.61 (d, J=2.4 Hz, 1H), 8.32 (d, J=1.6 Hz, 1H), 8.19 (ddd, J=5.2, 1.6, 0.8 Hz, 1H), 7.93 (dd, J=8.8, 1.6 Hz, 1H), 7.73 (ddd, J=8.8, 6.8, 1.8, Hz, 1H), 7.61 (ddd, J=4.8, 2.8, 2.8 Hz, 2H), 7.58 (s, 1H), 7.24 (ddd, J=5.2, 3.2, 3.2 Hz, 2H), 7.01 (ddd, J=6.8, 5.2, 1.2 Hz, 1H), 6.88 (dd, J=8.4, .4.0 Hz, 1H), 4.64 (t, J=4.2 Hz, 2H), 4.43 (t, J=4.6 Hz, 2H). MS(ES+): m/z 376.47 (10) [MH+].

reactant | 3-Nitro-4-({4-[2-(pyridin-2-yloxy)ethoxy]phenyl}amino)benzoic acid | 15.20 mmol, 6.00 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1NC1=CC=C(C=C1)OCCOC1=NC=CC=C1 | C20H17N3O6
reactant | formic acid | 68 mL | C(=O)O | CH2O2
solvent | trimethyl orthoformate | 175 mL | C(OC)(OC)OC | C4H10O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | iron | 152.00 mmol, 8.49 g | [Fe] | Fe
product | 1-{4-[2-(pyridin-2-yloxy)ethoxy]phenyl}-1H-benzimidazole-5-carboxylic acid | N1=C(C=CC=C1)OCCOC1=CC=C(C=C1)N1C=NC2=C1C=CC(=C2)C(=O)O | C21H17N3O4
